US08357679B2
B: 1-(2-Fluoro-4-((4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methyl)phenyl)-3-(pyridin-4-yl)urea
Phenyl pyridin-4-ylcarbamate (0.461 mmol, 0.099 g) was added to a stirred solution of 2-(4-((4-(4-amino-3-fluorobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.279 mmol, 0.139) in dioxane (7 mL) and mixture heated in a microwave reactor for 10 minutes at 130° C. Water (10 mL) was added to the reaction followed by dichloromethane (10 ml). The organic layer was separated, washed with water (3×10 mL), dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by preparative HPLC giving the title compound (0.023 g). MS (ESI) m/z 586.3 [M+H]+

reactant | Phenyl pyridin-4-ylcarbamate | 0.461 mmol, 0.099 g | N1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C12H10N2O2
reactant | 2-(4-((4-(4-amino-3-fluorobenzyl)piperazin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.279 mmol | NC1=C(C=C(CN2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)F | C21H22F7N3O
reactant | Water | 10 mL | O | H2O
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 1-(2-Fluoro-4-((4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methyl)phenyl)-3-(pyridin-4-yl)urea | 0.023 g | FC1=C(C=CC(=C1)CN1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC1=CC=NC=C1 | C27H26F7N5O2
